US08426411B2
A mixture of copper (I) chloride (0.136 g, 1.37 mmol), (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.854 g, 1.37 mmol), and NaOt-Bu (0.132 g, 1.37 mmol) in toluene (50 mL) was stirred at ambient temperature for about 15 min then cooled to about 5° C. and polymethylhydrosiloxane (12 mL, 55 mmol) was added. The reaction mixture was stirred for about 40 min at about 5° C. then cooled to about −12° C. A solution of ethyl 2-ethyl-4-oxocyclopent-2-enecarboxylate (5.00 g, 27.4 mmol) and t-BuOH (14 mL, 148 mmol) in toluene (50 mL) was added in one portion and the reaction mixture was stirred for about 16 h at about −12° C. The reaction mixture was quenched by the addition of MeOH (50 mL). The solvents were removed under reduced pressure. The residue was dissolved in MeOH (35 mL) and filtered through a pad of Celite®. The filtrate was concd under reduced pressure and the residue was triturated with EtOAc (100 mL) and filtered. The filtrate was concd under reduced pressure and the residue was purified using silica gel chromatography (280 g) eluting with a gradient of 0-10% EtOAc in heptane to give (1S,2R,4S)-ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate (1.11 g, 22%): 1H NMR (CDCl3) δ 4.30 (m, 1H), 4.24-4.08 (m, 2H), 2.88 (td, J=2.1, 7.1 Hz, 1H), 2.40 (dt, J=7.8, 14.0 Hz, 1H), 2.08-1.91 (m, 3H), 1.52-1.31 (m, 3H), 1.29 (t, J=7.1 Hz, 3H), 0.94 (t, J=7.4 Hz, 3H).

reactant | (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.37 mmol, 0.854 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | NaOt-Bu | 1.37 mmol, 0.132 g | CC(C)(C)[O-].[Na+]
reactant | ethyl 2-ethyl-4-oxocyclopent-2-enecarboxylate | 27.4 mmol, 5.00 g | C(C)C=1C(CC(C1)=O)C(=O)OCC | C10H14O3
reactant | t-BuOH | 148 mmol, 14 mL | CC(C)(C)O | C4H10O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper (I) chloride | 1.37 mmol, 0.136 g | [Cu]Cl
product | (1S,2R,4S)-ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate | 1.11 g, 22% | C(C)[C@H]1[C@H](C[C@H](C1)O)C(=O)OCC | C10H18O3
